US06881842B2
Synthesis of 8-[3-(4-piperidinyl)-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinoline-4-one
A mixture of 3.95 kg of 8-[3-(1-acetyl-4-piperidinyl)-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinoline-4-one and 19.8 L of 2 N HCl was stirred at about 85° C. for about 10 hours. After cooled to about 35° C., 12 L of toluene was added to the reaction mixture, the layers were separated, and pH was adjusted to about 13 by adding 30% NaOH (about 10 L) to the aqueous layer while maintaining about 30° C. Further, 20 L of a mixture of toluene-acetonitrile (1:1) was added thereto, and the layers were separated. To the aqueous layer was added 12 L of a mixture of toluene-acetonitrile (1:1), and the layers were separated. The organic layers were combined, 12 L of 30% brine was added thereto, and the layers were separated. To the organic layer were added 346 g of active carbon and 346 g of silica gel, followed by stirring for about 15 minutes. The insolubles were filtered off, and washed with 6 L of a mixture of toluene-acetonitrile (1:1). The filtrate was concentrated to a volume of the solution of about 7 L. To the residue was added 3 L of toluene, and the mixture was stirred at about 40° C. Under nitrogen, 666 g of acetic acid was added at about 30° C. over about 15 minutes. The mixture was stirred at about 25° C. for 1.5 hours and then at about 5° C. for 1 hour. Precipitated crystals were separated, and washed with 28 L of a mixture of toluene-acetonitrile (1:1) cooled to about 5° C. The wet crystals were suspended in 65 L of a mixture of toluene-acetonitrile (1:1), 30% NaOH was added (about 10 L) thereto, pH was adjusted to 13.5, and the layers were separated. To the aqueous layer was added 8 L of a mixture of toluene-acetonitrile (1:1), and the layers were separated. The organic layers were combined, and washed with 12 L of 30% brine. The organic layer was washed again with 12 L of 30% brine. To the organic layer were added 346 g of active carbon and 346 g of silica gel, the mixture was stirred for about 15 minutes. The insolubles were filtered off, and washed with 6 L of a mixture of toluene-acetonitrile (1:1). The same procedures were repeated twice. The organic layer was concentrated, and 5 L of water was added to the residue, followed by re-concentration. The same procedures were repeated twice. Under nitrogen, 5 L of water was added to the residue, and 5 L of 30% brine was added at about 20° C. over about 15 minutes. Seed crystals were added, and the mixture was stirred at about 20° C. for 1.5 hours and then at about 5° C. for 1 hour. The desired compound was separated under nitrogen, washed with 4 L of 30% brine cooled to about 5° C., and dried to give 1.78 kg (yield 51%) of the desired compound as crystals.

reactant | 8-[3-(1-acetyl-4-piperidinyl)-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinoline-4-one | 3.95 kg | C(C)(=O)N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C21H26N2O3
reactant | HCl | 2 N, 19.8 L | Cl | ClH
solvent | toluene | 12 L | C1(=CC=CC=C1)C | C7H8
product | 8-[3-(4-piperidinyl)-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinoline-4-one | 1.78 kg, yield 51% | N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C19H24N2O2
